US08648096B2
To a suspension of 3-(4-methylaminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione hydrochloride (0.60 g, 1.86 mmol) and 3,5-dichlorophenyl-isocyanate (0.42 g, 2.23 mmol) in dry CH2Cl2 (80 ml), was added diisopropylethylamine (0.45 mL g, 2.60 mmol). The mixture was stirred at room temperature overnight. The mixture was quenched with MeOH and filtered. The resulting solid was rinsed with CH2Cl2 (5 mL) to give 3-(3,5-dichloro-phenyl)-1-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-4-ylmethyl]-1-methyl-urea (0.76 g, 86%): mp 285-287° C.; HPLC: Waters Symmetry C-18, 3.9×150 mm, 5 micro, 1 mL/min, 240 nm, 40/60 (CH3CN/H2O): tR=6.97 (99%); 1H NMR (DMSO-d6): δ 2.00-2.05 (m, 1H), 2.33-2.40 (m, 1H), 2.57-2.64 (m, 1H), 2.85-2.94 (m, 1H), 2.98 (s, 3H), 4.37 (d, J=17.3 Hz, 1H), 4.45 (d, J=7.4 Hz, 1H), 4.65 (s, 2H), 5.10-5.18 (dd, J=4.9, 13.1 Hz, 1H), 7.13 (s, 1H), 7.45 (d, J=8.9 Hz, 2H), 7.53 (t, J=7.5 Hz, 1H), 7.63-7.67 (m, 3H), 8.80 (s, 1H), 11.01 (s, 1H). 13C NMR (DMSO-d6) δ: 22.57, 31.19, 34.78, 46.26, 48.37, 51.61, 117.44, 120.77, 121.82, 128.51, 129.81, 131.95, 133.40, 133.65, 140.15, 143.05, 155.03, 167.98, 171.00, 172.83. Anal Calcd for C22H20Cl2N4O4+0.2 CH2Cl2: C, 54.16; H, 4.18; N, 11.38, Cl, 17.28. Found: C, 54.34; H, 3.95; N, 11.29, Cl, 17.13.

reactant | 3-(4-methylaminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione hydrochloride | 1.86 mmol, 0.60 g | Cl.CNCC1=C2CN(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O
reactant | 3,5-dichlorophenyl-isocyanate | 2.23 mmol, 0.42 g | ClC=1C=C(C=C(C1)Cl)N=C=O | C7H3Cl2NO
reactant | diisopropylethylamine | 2.60 mmol, 0.45 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 80 ml | C(Cl)Cl | CH2Cl2
product | 3-(3,5-dichloro-phenyl)-1-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-4-ylmethyl]-1-methyl-urea | 0.76 g, 86% | ClC=1C=C(C=C(C1)Cl)NC(N(C)CC1=C2CN(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C22H20Cl2N4O4
